US07781454B2
3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzaldehyde
To 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile (10 mg, 0.023 mmol) dissolved in dry THF (0.5 mL) at 0° C. was added LAH solution 1M in THF (0.046 mL, 0.046 mmol). After 30 minutes, the reaction was quenched with EtOAc (2 mL) at 0° C., followed by addition of saturated aqueous Na2SO4 (0.25 mL), and then after 5 minutes by addition of water (0.5 mL). This mixture was allowed to stir for 5 minutes after which time solid Na2SO4 was added to the reaction mixture. The dried mixture was then filtered and solvent removed under reduced pressure. The resulting residue was purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. Product fractions were lyophilized to afford the title compound. 1H NMR (DMSO-d6) δ 9.90 (s, 1H), 8.52 (d, J=3.5 Hz), 8.10 (d, J=7.5 Hz), 7.90 (d, J=8.9 Hz, 1H), 7.80 (d, J=8.9 Hz, 1H), 7.72 (m, 1H), 7.30 (m, 1H), 7.20 (dd, J=8.1 Hz, J=4.6 Hz, 1H), 6.40 (s, 2H).

reactant | 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | 0.023 mmol, 10 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl | C20H11Cl2N7O
reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | THF | 0.046 mmol, 0.046 mL | C1CCOC1 | C4H8O
product | 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzaldehyde | ClC=1C=C(C=O)C=C(C1)OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl | C20H12Cl2N6O2
